US04225710
To a refluxing solution of 2,4-diamino-6-(1-methylhydrazino)pyrimidine (500 mg) in anhydrous methanol (15 ml) was added methyl pyruvate (496 mg) over a five minute period. Reflux was continued for 5 hours after which time the solid which had separated was collected by suction filtration of the hot mixture, washed with methanol, and dried under vacuum at 70° C. to yield tan crystals of 5,7-diamino-1,3-dimethylpyrimido(4,5-c)-pyridazine-4-(1H)-one (508 mg; 76% of theoretical yield; m.p.>275° C.).

reactant | 2,4-diamino-6-(1-methylhydrazino)pyrimidine | 500 mg | NC1=NC(=CC(=N1)N)N(N)C | C5H10N6
reactant | methyl pyruvate | 496 mg | C(C(=O)C)(=O)OC | C4H6O3
solvent | methanol | 15 ml | CO | CH4O
product | 5,7-diamino-1,3-dimethylpyrimido(4,5-c)-pyridazine-4-(1H)-one | 508 mg, 76% | NC1=NC(=NC=2N(N=C(C(C21)=O)C)C)N | C8H10N6O
